US05051436
1. PREPARATION EXAMPLES 1. Preparation of N-(phenylsulfonyl)-benzo-1,2,3-thiadiazole-7-carboxylic acid amide
3.2 g of benzenesulfonamide are introduced at from 0°-5° C. into 50 ml of abs. pyridine and, while stirring at that temperature, a solution of 3.9 g of benzo-1,2,3-thiadiazole-7-carboxylic acid chloride in20 ml of methylene chloride is added dropwise. The mixture is stirred overnight and then poured onto ice-water, rendered slightly acidic with hydrochloric acid and extracted with methylene chloride, and the extracts are washed with water, dried and concentrated by evaporation. The residue is dissolved warm in tetrahydrofuran, treated with some silica gel, filtered, concentrated by evaporation and then recrystallised from tetrahydrofuran/hexane. The title compound resulting melts at 231°-233° C.

reactant | benzenesulfonamide | 3.2 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzo-1,2,3-thiadiazole-7-carboxylic acid chloride | 3.9 g | S1N=NC2=C1C(=CC=C2)C(=O)Cl | C7H3ClN2OS
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(phenylsulfonyl)-benzo-1,2,3-thiadiazole-7-carboxylic acid amide | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=CC=2N=NSC21 | C13H9N3O3S2
